US07273877B2
Step B: Preparation of 4-(4-ethynyl-2-fluoroanilino)-N-(2-hydroxyethyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide
4-{2-Fluoro-4-[(trimethylsilyl)ethynyl]anilino}-N-(2-hydroxyethyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide (195 mg, 0.50 mmol) was dissolved/suspended in a mixture of MeOH (30 mL) and THF (20 mL) to which was added solid K2CO3 (139 mg, 1.01 mmol). This mixture was stirred for 48 h. at R.T. All solvent was then removed under reduced pressure, the residue taken up into EtOAc containing 10% MeOH (100 mL), and this solution washed with water (2×100 mL) and brine (100 mL). The combined aqueous fractions were back-extracted with EtOAc (2×100 mL). All EtOAc fractions were combined and dried with Na2SO4, the solvent removed under reduced pressure and the residue purified by column chromatography on silica gel (5% MeOH/CH2Cl2 as eluant). This gave 4-(4-ethynyl-2-fluoroanilino)-N-(2-hydroxyethyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide as a white solid (152 mg, 96%), m.p. (acetone/MeOH) 265-273° C. 1H NMR [(CD3)2SO, 400 MHz] δ 11.44 (br s, 1H), 10.41 (s, 1H), 8.49 (br t, J=5.1 Hz, 1H), 7.97 (s, 1H), 7.50 (t, J=8.5 Hz, 1H), 7.45 (dd, J=11.5, 1.8 Hz, 1H), 7.33 (dd, J=8.3, 1.4 Hz, 1H), 5.62 (s, 1H), 4.72 (t, J=5.7 Hz, 1H), 4.24 (s, 1H), 3.50 (q, J=5.8 Hz, 2H), 3.31-3.23 (m, 2H). Anal. Calcd for C16H14FN3O3: C, 61.0; H, 4.5; N, 13.3. Found: C, 61.1; H, 4.3; N, 13.3.

reactant | 4-{2-Fluoro-4-[(trimethylsilyl)ethynyl]anilino}-N-(2-hydroxyethyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide | 0.50 mmol, 195 mg | FC1=C(NC=2C(=CNC(C2)=O)C(=O)NCCO)C=CC(=C1)C#C[Si](C)(C)C | C19H22FN3O3Si
reactant | K2CO3 | 1.01 mmol, 139 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 30 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-(4-ethynyl-2-fluoroanilino)-N-(2-hydroxyethyl)-6-oxo-1,6-dihydro-3-pyridinecarboxamide | C(#C)C1=CC(=C(NC=2C(=CNC(C2)=O)C(=O)NCCO)C=C1)F | C16H14FN3O3
